US06136823
Synthesis of Ethyl 1-[5-(N-tert-butoxycarbonyl-N-methylamino)-2,4-difluorophenyl]-6,7-difluoro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate
N,N-Dimethylformamide (4 ml), potassium carbonate (0.6 g) and methyl iodide (0.6 g) were added to ethyl 1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-6,7-difluoro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate (1.0 g), and the mixture was stirred overnight at 60° C. Ethyl acetate and water were added to the reaction mixture to collect an organic layer. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off. Ethanol was added to the residue, and solids deposited were collected to obtain the title compound (410 mg) as a colorless powder.

reactant | N,N-Dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.6 g | CI | CH3I
reactant | ethyl 1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-6,7-difluoro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.0 g | C(C)(C)(C)OC(=O)NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)C)F)F)=O)C(=O)OCC)F)F | C24H22F4N2O5
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 1-[5-(N-tert-butoxycarbonyl-N-methylamino)-2,4-difluorophenyl]-6,7-difluoro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 410 mg | C(C)(C)(C)OC(=O)N(C)C=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)C)F)F)=O)C(=O)OCC)F)F | C25H24F4N2O5
